US07872018B2
Step 1—Preparation of 2-chloromethyl-1-methyl-1H-benzoimidazole (212)
N-methyl-phenylenediamine (1 g, 8.2 mmol) and chloroacetic acid (0.9 g, 9.4 mol) were dissolved in 5 N aqueous hydrochloric acid (10 mL) and stirred at 55° C. overnight. The reaction mixture was then diluted with water and basified with solid sodium bicarbonate to give a precipitate which was filtered, washed with water and dried to provide the desired compound (1.3 g, 87%).

reactant | N-methyl-phenylenediamine | 8.2 mmol, 1 g | CNC1=C(C=CC=C1)N | C7H10N2
reactant | chloroacetic acid | 9.4 mol, 0.9 g | ClCC(=O)O | C2H3ClO2
solvent | hydrochloric acid | 5 N, 10 mL | Cl | ClH
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-chloromethyl-1-methyl-1H-benzoimidazole | 1.3 g, 87% | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
